US08491869B2
tert-Butyl 5-(quinolin-2-yl)pyridin-2-yl-carbamate T503:
To a solution of 5-(quinolin-2-yl)pyridin-2-amine (130 mg, 0.59 mmol) in DCM (5 mL) was added Boc2O (154 mg, 0.71 mmol), DIEA (76 mg, 0.59 mmol) an DMAP (14 mg, 0.11 mmol). The mixture was stirred at room temperature for 24 hrs. LCMS showed that mono-Boc, di-Boc product, and starting material were present. The solvent was removed and the residue was dissolved in a mixture of ethyl acetate and DCM. As DCM evaporated, and needle crystals were formed. The crystals were collected by filtration, washed with ethyl acetate, and dried to give T503 white needles (67 mg, 35%). 1H NMR (400 MHz, DMSO-d6): δ 10.03 (s, 1H), 9.11 (dd, J=2.4, 0.8 Hz, 1H), 8.60 (dd, J=8.8, 2.4 Hz, 1H), 8.43 (d, J=8.8 Hz, 1H), 8.15 (d, J=8.8 Hz, 1H), 8.04 (dd, J=8.2, 1.0 Hz, 1H), 7.96 (m, 2H), 7.76 (m, 1H), 7.57 (m, 1H), 1.47 (s, 9H); MS (ESI): 322 (M+H+).

reactant | 5-(quinolin-2-yl)pyridin-2-amine | 0.59 mmol, 130 mg | N1=C(C=CC2=CC=CC=C12)C=1C=CC(=NC1)N | C14H11N3
reactant | Boc2O | 0.71 mmol, 154 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIEA | 0.59 mmol, 76 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.11 mmol, 14 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 5-(quinolin-2-yl)pyridin-2-yl-carbamate | 67 mg, 35% | N1=C(C=CC2=CC=CC=C12)C=1C=CC(=NC1)NC(OC(C)(C)C)=O | C19H19N3O2
